US04159343
(5Z,13E)-(8R,11R,12R,15S)-1-(N-Methylcarbamoyloxy)-11,15-dihydroxy-5,13-prostadien-9-one
At 40°, 300 mg. of (5Z,13E)-(8R,11R,12R,15S)-1-(N-methylcarbamoyloxy)-11,15-bis(tetrahydropyran-2-yloxy)-5,13-prostadien-9-one was agitated with 9 ml. of a mixture of glacial acetic acid/water/tetrahydrofuran (65/35/10) for 6 hours. The mixture was then evaporated to dryness under vacuum. After purifying the residue by chromatography on silica gel (ether/ethyl acetate 7+3), 145 mg. of the title compound was obtained as a colorless oil.

reactant | (5Z,13E)-(8R,11R,12R,15S)-1-(N-methylcarbamoyloxy)-11,15-bis(tetrahydropyran-2-yloxy)-5,13-prostadien-9-one | CNC(=O)OCCCC\C=C/C[C@H]1C(C[C@H]([C@@H]1\C=C\[C@H](CCCCC)OC1OCCCC1)OC1OCCCC1)=O | C32H53NO7
solvent | acetic acid water tetrahydrofuran | C(C)(=O)O.O.O1CCCC1
product | (5Z,13E)-(8R,11R,12R,15S)-1-(N-Methylcarbamoyloxy)-11,15-dihydroxy-5,13-prostadien-9-one | CNC(=O)OCCCC\C=C/C[C@H]1C(C[C@H]([C@@H]1\C=C\[C@H](CCCCC)O)O)=O | C22H37NO5
